US07977358B2
C] (trans)-3-Methyl-4-pyrrolidin-1-yl-piperidine dihydrochloride
The title compound was prepared in analogy to 193B, by reduction of (trans)-3-methyl-4-(2-oxo-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester with lithium aluminium hydride and subsequent deprotection with 4M hydrochloric acid in dioxane. MS: 169.2 (MH+).

reactant | (trans)-3-methyl-4-(2-oxo-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)N1C(CCC1)=O)C | C15H26N2O3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (trans)-3-Methyl-4-pyrrolidin-1-yl-piperidine dihydrochloride | Cl.Cl.C[C@@H]1CNCC[C@H]1N1CCCC1 | InChI=1S/C10H20N2.2ClH/c1-9-8-11-5-4-10(9)12-6-2-3-7-12;;/h9-11H,2-8H2,1H3;2*1H/t9-,10-;;/m1../s1
